US07847123B2
N-(2-Ethylhexyl)lactamide was prepared in accordance with example 1 by amidation of ethyl lactate with 2-ethylhexylamine.

reactant | ethyl lactate | C(C(O)C)(=O)OCC | C5H10O3
reactant | 2-ethylhexylamine | C(C)C(CN)CCCC | C8H19N
product | N-(2-Ethylhexyl)lactamide | C(C)C(CNC(C(O)C)=O)CCCC | C11H23NO2
